US04091209
N-Benzyloxymethylpyrrol-2-ylglyoxylic acid
Crude methyl-N-benzyloxymethylpyrrol-2-ylglyoxylate (10 g) in methanol (150 ml) was treated with sodium hydroxide solution (N: 40 ml) at room temperature for 1 hr. Thin-layer chromatography showed complete hydrolysis. Hydrochloric acid (2N: 20 ml) was added and the methanol was removed by evaporation. The residue was shaken with sodium bicarbonate solution and ether. The aqueous layer was acidified under ether and the ether extract was washed with water and dried. Evaporation gave the acid as an orange oil (4.5 g, 55%); this material was used directly to make the synmethoxime described in Preparation 49.

reactant | methyl-N-benzyloxymethylpyrrol-2-ylglyoxylate | 10 g | CC1=C(N(C=C1)COCC1=CC=CC=C1)C(C(=O)[O-])=O
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | Hydrochloric acid | 2N, 20 ml | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | N-Benzyloxymethylpyrrol-2-ylglyoxylic acid | 4.5 g, 55% | C(C1=CC=CC=C1)OCN1C(=CC=C1)C(C(=O)O)=O | C14H13NO4
